US07288537B2
1-{(S)-3-[3-phenoxy-azetidin-1-yl]-1-hydroxymethyl-propyl}-3-(5-ethyl-[1,3,4]thiadiazol-2-yl)-urea—Example 169
This compound is prepared analogously to 1-{(S)-3-[3-(4-chloro-phenoxy)-azetidin-1-yl]-1-hydroxymethyl-propyl}-3-(5-ethyl-[1,3,4]-thiadiazol-2-yl)-urea in Example 99 except using (S)-2-amino-4-[3-phenoxy-azetidin-1-yl]-butan-1-ol hydrochloride in place of (S)-2-amino-4-[3-(4-chloro-phenoxy)-azetidin-1-yl]-butan-1-ol hydrochloride.

reactant | 1-{(S)-3-[3-(4-chloro-phenoxy)-azetidin-1-yl]-1-hydroxymethyl-propyl}-3-(5-ethyl-[1,3,4]-thiadiazol-2-yl)-urea | ClC1=CC=C(OC2CN(C2)CC[C@@H](CO)NC(=O)NC=2SC(=NN2)CC)C=C1 | C18H24ClN5O3S
reactant | (S)-2-amino-4-[3-phenoxy-azetidin-1-yl]-butan-1-ol hydrochloride | Cl.N[C@H](CO)CCN1CC(C1)OC1=CC=CC=C1
product | 1-{(S)-3-[3-phenoxy-azetidin-1-yl]-1-hydroxymethyl-propyl}-3-(5-ethyl-[1,3,4]thiadiazol-2-yl)-urea | O(C1=CC=CC=C1)C1CN(C1)CC[C@@H](CO)NC(=O)NC=1SC(=NN1)CC | C18H25N5O3S
